US06194425B1
Using the general method of Example 47, butyl isocyanate (54 μL, 0.48 mmol) was reacted with 4-(4-amino-2-butyl-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl)butaneamine (0.15 g, 0.48 mmole) to provide 0.13 g of N-[4-(4-amino-2-butyl-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl)butyl]-N′-butylurea as a white solid. Analysis: Calculated for C22H33N7O: % C, 64.21; % H, 8.08; % N, 23.82; Found: % C, 64.05; % H, 7.97; % N, 24.00.

reactant | butyl isocyanate | 0.48 mmol, 54 μL | C(CCC)N=C=O | C5H9NO
reactant | 4-(4-amino-2-butyl-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl)butaneamine | 0.48 mmole, 0.15 g | NC1=NC=2C=CC=NC2C2=C1N=C(N2CCCCN)CCCC | C17H24N6
product | N-[4-(4-amino-2-butyl-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl)butyl]-N′-butylurea | 0.13 g | NC1=NC=2C=CC=NC2C2=C1N=C(N2CCCCNC(=O)NCCCC)CCCC | C22H33N7O
